US06316482B1
To a solution of 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-(2-phthalimidomethyl-1H-benzimidazol-4-yl)carbonylaminobenzamide (383 mg) in ethanol (5 ml) was added hydrazine monohydrate (19 mg) at ambient temperature and the solution was stirred at 60° C. for 1 hour. The reaction mixture was stirred in an ice water bath for 2 hours and the precipitate was filtered off. The filtrate was evaporated in vacuo and the residue was purified by preparative thin-layer chromatography (chloroform-methanol-ammonia solution (28%)=160:32:1) to give 4-(2-aminomethyl-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (200 mg) as a powder.

reactant | 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-(2-phthalimidomethyl-1H-benzimidazol-4-yl)carbonylaminobenzamide | 383 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)CN2C(C=1C(C2=O)=CC=CC1)=O | C44H47N7O7
reactant | hydrazine monohydrate | 19 mg | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(2-aminomethyl-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 200 mg | NCC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C36H45N7O5
